US07989628B2
N2-(3-Cyclopropyl-phenyl)-quinoline-2,5-diamine
The title compound, MS: m/e=276.4 (M+H+), was prepared in accordance with the general method of example 1 from 5-nitro-2-chloroquinoline and 3-cyclopropylamine.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 3-cyclopropylamine | C1CC1N | C3H7N
product | N2-(3-Cyclopropyl-phenyl)-quinoline-2,5-diamine | C1(CC1)C=1C=C(C=CC1)NC1=NC=2C=CC=C(C2C=C1)N | C18H17N3
